US07598423B2
Synthesis of 3-{[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzoic acid
Add p-toluenesulfonic acid (16.8 mg, 0.098 mmol) to a solution of 3-[[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzoic acid (1.00 g, 1.96 mmol) in methanol (0.20M) and stir overnight. Evaporate solvents, dilute with ethyl acetate and wash with water (1×) and brine (1×). Dry and concentrate to afford the title compound as a white solid (0.786 mg, 1.84 mmol, 94%): MS (m/z): 426 (M−H).

reactant | p-toluenesulfonic acid | 0.098 mmol, 16.8 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-[[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzoic acid | 1.96 mmol, 1.00 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C(=O)O)C=CC2)OC2OCCCC2)C=C1)Cl)O | C28H27ClO7
solvent | methanol | 0.20M | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-{[4-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzoic acid | 1.84 mmol, 0.786 mg, 94% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C(=O)O)C=CC2)O)C=C1)Cl)O | C23H19ClO6
